US06573252B1
Preparation of the 5-tert-Butoxycarbonylamino-2-hydroxybenzoic Acid
To a suspension of 5-amino-2-hydroxybenzoic acid (15 g, 98 mmoles) in dioxane (105 ml) and water (150 ml) triethylamine (24.6 ml, 176 mmoles) is added. To the obtained solution di-tert-butyl-dicarbonate (25.65 g, 118 mmoles) is added. The reaction mixture is left under stirring at room temperature for 4 days. Finally the solution is concentrated under vacuum up to a volume of a about 150 ml, cooled by ice and acidified with hydrochloric acid at 5%, extracting then with ethyl acetate. The organic phase is recovered and washed with water. The organic phase is anhydrified by sodium sulphate. By evaporating the solvent under vacuum the product is recovered as amorphous solid (20.8 g).

reactant | 5-amino-2-hydroxybenzoic acid | 98 mmoles, 15 g | NC=1C=CC(=C(C(=O)O)C1)O | C7H7NO3
reactant | water | 176 mmoles, 150 ml | O | H2O
reactant | di-tert-butyl-dicarbonate | 118 mmoles, 25.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 105 ml | O1CCOCC1 | C4H8O2
product | 5-tert-Butoxycarbonylamino-2-hydroxybenzoic Acid | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C(=O)O)C1)O | C12H15NO5
